US07179912B2
1-(3-Amino-4-nitrophenyl)-piperidin-4-ol
A mixture of 5-chloro-2-nitrophenylamine (1.3 g, 7.0 mmol), 4-hydroxypiperidine (2.2 g, 20 mmol), and K2CO3 (1.0 g, 7 mmol) in DMF (20 mL) was stirred at 120° C. for 18 h. The reaction mixture was cooled to room temperature, poured into water (50 mL) and extracted with EtOAc (3×50 mL). The combined organic extracts were dried over sodium sulfate, concentrated in vacuo, and the oily residue was triturated with 70/30 EtOAc/CHCl3 (8 mL) to yield a yellow solid. The solid product was collected by filtration, washed with 70:30 EtOAc/CHCl3 (8 mL), and dried in vacuo (0.63 g, 38%).

reactant | 5-chloro-2-nitrophenylamine | 7.0 mmol, 1.3 g | ClC=1C=CC(=C(C1)N)[N+](=O)[O-] | C6H5ClN2O2
reactant | 4-hydroxypiperidine | 20 mmol, 2.2 g | OC1CCNCC1 | C5H11NO
reactant | K2CO3 | 7 mmol, 1.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 50 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(3-Amino-4-nitrophenyl)-piperidin-4-ol | NC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)O | C11H15N3O3
